*all pass active filter
X1 3 2 6 5 4 uA741
R1 2 1 10k
C1 3 0 0.1µ
R2 3 1 10k
V1 1 0 AC 1
R3 4 2 10k
V2 0 5 10
V3 6 0 10
R4 4 0 10k
.lib nom.lib
.ac dec 20 10 1meg
.probe
.end