*emitter follower
V1 1 0 SIN(0 1 1k)
C1 2 1 1µ
R2 2 0 51k
R1 3 2 18k
Q1 3 2 4 0 Q2N2222A
RE 4 0 470
Vcc1 3 0 12V
C2 5 4 10µ
RL 5 0 470
.model Q2N2222A NPN (Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1
+ Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+ Tr=46.91n Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
.tran 0.01m 4m 0 0.01m
.probe
.end